US06225330B1
N-{[4-(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)cyclohexyl]methyl}-N-propylformamide:
To a solution of N2-{4-[(propylamino)methyl]cyclohexyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-amine (0.254 g, 0.68 mmol) in anhydrous THF (4 ml) was added 1H-benzotriazole-1-carboxaldehyde (0.110 g, 0.75 mmol). The solution was stirred at room temperature for 1 hour and then poured into 2N NaOH (50 ml) and extracted with EtOAc (60 ml). The extract was separated and evaporated to yield 295 mg of a viscous oil. Chromatography on silica-gel eluting with 1:1 EtOAc/hexane yielded 56% (152 mg) of the product as a white solid: 1H-NMR (CDCl3) δ 0.90 (3H, m), 1.14 (4H, m), 1.58 (2H, m), 1.78 (2H, m), 2.23 (2H, m), 3.20 (8H, m), 4.32 (2H, t, J=4.9 Hz), 5.03 (1H, m), 6.99 (1H, m), 7.12 (2H, m), 8.01 (0.5H, s), 8.11 (0.5H, s), 8.22 (1H, d); m.p. 53-55° C.; 400 (ESMS, MH+).

reactant | N2-{4-[(propylamino)methyl]cyclohexyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-amine | 0.68 mmol, 0.254 g | C(CC)NCC1CCC(CC1)NC=1SC2=C(N1)C1=C(OCC2)C=CC=C1 | C21H29N3OS
reactant | 1H-benzotriazole-1-carboxaldehyde | 0.75 mmol, 0.110 g | N1(N=NC2=C1C=CC=C2)C=O | C7H5N3O
reactant | NaOH | 2N, 50 ml | [OH-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | N-{[4-(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)cyclohexyl]methyl}-N-propylformamide | 295 mg | N1=C(SC2=C1C1=C(OCC2)C=CC=C1)NC1CCC(CC1)CN(C=O)CCC | C22H29N3O2S
